US06653305B2
4-[(3-chloro-4-fluorophenyl)amino]-7-cyclopropylmethoxy-6-nitroquinazoline
29.36 g of cyclopropylmethanol are dissolved in 310 ml of N,N-dimethylformamide and cooled to about 10° C. in an ice bath. Then 41.58 g potassium tert-butoxide is added in batches, while the temperature should stay below 15° C. The reaction mixture is then stirred for another 30 minutes at 10° C., then 31.19 g of 4-[(3-chloro-4-fluorophenyl)amino]-7-fluoro-6-nitroquinazoline is added in batches, while again the temperature should not exceed 15° C. The dark red reaction mixture is stirred for another hour at 15° C. For working up, the mixture is poured onto 2.5 1 of water and neutralized with 2N hydrochloric acid. The yellowish precipitate formed is suction filtered, washed with water, and dried at 50° C. in a drying cupboard. Yield: 36.02 g (100% of theory); melting point: 204° C.; mass spectrum (ESI+): m/z=389, 391 [M+H]+.

reactant | cyclopropylmethanol | 29.36 g | C1(CC1)CO | C4H8O
reactant | potassium tert-butoxide | 41.58 g | CC(C)([O-])C.[K+]
reactant | 4-[(3-chloro-4-fluorophenyl)amino]-7-fluoro-6-nitroquinazoline | 31.19 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C14H7ClF2N4O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | N,N-dimethylformamide | 310 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-[(3-chloro-4-fluorophenyl)amino]-7-cyclopropylmethoxy-6-nitroquinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCC1CC1 | C18H14ClFN4O3
